US07582651B2
(2) 1,1-Bis(4-fluorophenyl)methaneamine
A mixed solution of bis(4-fluorophenyl)methylformamide (13.9 g, 56.2 mmol), concentrated hydrochloric acid (80 ml) and methanol (160 ml) was stirred at 90° C. for 1.5 hours and cooled to room temperature, then a 6 N aqueous sodium hydroxide solution (170 ml) was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the objective product as a solid material. Yield (amount) 11.5 g, yield (rate) 93.5%

reactant | bis(4-fluorophenyl)methylformamide | 56.2 mmol, 13.9 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)NC=O | C14H11F2NO
reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | sodium hydroxide | 6 N, 170 ml | [OH-].[Na+]
solvent | methanol | 160 ml | CO | CH4O
product | 1,1-Bis(4-fluorophenyl)methaneamine | FC1=CC=C(C=C1)C(N)C1=CC=C(C=C1)F | C13H11F2N
